US05463073
5a) 2-Ethylthio-4-methyl-1-[[2'-(N-trityltetrazol-5-yl)biphenyl -4-yl]methyl]thieno[3,4-d]imidazole-6-carboxylic acid
Trityl chloride (0.6 g) was added to a solution of 2-ethylthio-4-methyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl ]methyl]thieno[3,4-d]imidazole-6-carboxylic acid (0.92 g) and triethylamine (0.3 ml) in dichloromethane (20 ml). The mixture was stirred for 30 minutes at room temperature. The reaction mixture was washed with water, dried, and then the solvent was evaporated ...in vacuo. The residue was purified by silica gel column chromatography to give crystals. Recrystallization from ethyl acetate - hexane afforded colorless needles (1.36 g, 98%), m.p. 138°-140° C.

reactant | Trityl chloride | 0.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 2-ethylthio-4-methyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl ]methyl]thieno[3,4-d]imidazole-6-carboxylic acid | 0.92 g | C(C)SC1=NC=2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=C(SC2C)C(=O)O | C23H20N6O2S2
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-Ethylthio-4-methyl-1-[[2'-(N-trityltetrazol-5-yl)biphenyl -4-yl]methyl]thieno[3,4-d]imidazole-6-carboxylic acid | C(C)SC1=NC=2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C(SC2C)C(=O)O | C42H34N6O2S2
